US06967196B1
To a solution of 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-4-azidobutyl]benzene-sulfonamide (0.394 g, 0.949 mmol) in THF (10 mL) was added lithium aluminum hydride (1.90 mL, 1 M in THF) at 0° C. under nitrogen atmosphere. The resulting mixture was allowed to stir at 0° C. for 1 h and subsequently treated by successive dropwise addition of 0.072 mL of water, 0.072 mL of 15% sodium hydroxide solution, and 0.216 mL of water. The mixture was filtered and concentrated under reduced pressure. Silica gel chromatography (3:10 ethyl acetate:hexanes) of the concentrate afforded 0.329 g of 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-4-aminobutyl]benzenesulfonamide as a light brown oil in 89% yield.

reactant | 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-4-azidobutyl]benzene-sulfonamide | 0.949 mmol, 0.394 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCN=[N+]=[N-])C)C1=C(C=CC(=C1)F)F | C17H17ClF2N4O2S
reactant | lithium aluminum hydride | 1 M, 1.90 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.072 mL | O | H2O
reactant | sodium hydroxide | 0.072 mL | [OH-].[Na+]
reactant | water | 0.216 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-(2,5-difluorophenyl)-N-[(R)-1-methyl-4-aminobutyl]benzenesulfonamide | 0.329 g, 89% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCN)C)C1=C(C=CC(=C1)F)F | C17H19ClF2N2O2S
